US07732435B2
Allyl-[8-bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester
A mixture of [8-bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester (0.231 g, 0.44 mmol) and cesium carbonate (0.228 g, 0.701 mmol, 1.6 eq.) in N,N-dimethylformamide (10 ml) is treated with allyl bromide (0.058 g, 0.042 ml, 0.48 mmol, 1.1 eq.), and the mixture is stirred at room temperature for 4 h. The mixture is diluted with water and washed twice with ethyl acetate. The aqueous phase is additionally washed with methylene chloride. The combined organic phases are dried (magnesium sulfate) and filtered and the solvent is removed by evaporation in vacuo to afford the title compound as a yellow solid. The product is used in the next step without further purification.

reactant | [8-bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester | 0.44 mmol, 0.231 g | C(C1=CC=CC=C1)OC(NC1=CC=C2C(C(=C(OC2=C1Br)C(C)C)C1=CC=C(C=C1)Cl)=O)=O | C26H21BrClNO4
reactant | cesium carbonate | 0.701 mmol, 0.228 g, 1.6 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | allyl bromide | 0.48 mmol, 0.042 ml, 0.058 g, 1.1 eq. | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Allyl-[8-bromo-3-(4-chlorophenyl)-2-isopropyl-4-oxo-4H-chromen-7-yl]carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1=CC=C2C(C(=C(OC2=C1Br)C(C)C)C1=CC=C(C=C1)Cl)=O)CC=C)=O | C29H25BrClNO4
